US09340538B2
Step E: 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(5-(trifluoromethyl)thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-(trifluoromethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.37 g, 0.65 mmol) was reacted with morpholine-3-carboxylic acid (0.1 g, 0.71 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.26 g, 65%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-(trifluoromethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.65 mmol, 0.37 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC(=CN1)C(F)(F)F | C18H13Br2F4N3O2S
reactant | morpholine-3-carboxylic acid | 0.71 mmol, 0.1 g | N1C(COCC1)C(=O)O | C5H9NO3
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(5-(trifluoromethyl)thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.26 g, 65% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC(=CN1)C(F)(F)F)CN1C(COCC1)C(=O)O)C(=O)OCC | C23H21BrF4N4O5S
